US08134004B2
Step CA3A: Methyl 2-tert-butylquinoline-6-carboxylate
To a THF (20 ml) solution of methyl quinoline-6-carboxylate (984 mg, 5.26 mmol, J. O. C., 2002, 67, 7890) was added t-butylmagnesium chloride in THF (15.8 ml, 1M solution) dropwise at −78° C. over 30 min. The mixture was stirred at −78° C. for 30 minutes and at −40° C. for 30 minutes, then at room temperature for 1 hour. The reaction was quenched with saturated ammonium chloride aqueous solution (100 ml) and extracted with EtOAc (100 ml×2) which was dried over sodium sulfate. Then, filtration, evaporation gave yellow oil, which was solved in THF (50 ml) and manganese dioxide (1.83 g 15.8 mmol) was added there. After the mixture was stirred at room temperature for 2.5 hours, the precipitate was removed through a pad of Celite and washed with EtOAc. The filtrate was concentrated and purified through silica gel column chromatography eluting with Hexane/EtOAc (20:1) to furnish the title compound (348 mg, 27% yield) as a white solid. 1H NMR (300 MHz, CDCl3) δ ppm 1.48 (9H, s), 3.99 (3H, s), 7.59 (1H, d, J=8.8 Hz), 8.08 (1H, d, J=8.8 Hz), 8.17 (1H, d, J=8.8 Hz), 8.26 (1H, dd, J=2.2, 8.8 Hz), 8.55 (1H, d, J=2.2 Hz) MS (ESI): m/z 244 (M+H)+.

reactant | methyl quinoline-6-carboxylate | N1=CC=CC2=CC(=CC=C12)C(=O)OC | C11H9NO2
reactant | t-butylmagnesium chloride | C(C)(C)(C)[Mg]Cl
solvent | THF | 1M, 15.8 ml | C1CCOC1 | C4H8O
solvent | THF | 50 ml | C1CCOC1 | C4H8O
catalyst | manganese dioxide | 15.8 mmol, 1.83 g | [O-2].[O-2].[Mn+4]
solvent | THF | 20 ml | C1CCOC1 | C4H8O
product | Methyl 2-tert-butylquinoline-6-carboxylate | 348 mg, 27% yield | C(C)(C)(C)C1=NC2=CC=C(C=C2C=C1)C(=O)OC | C15H17NO2
